US07211672B2
(±)-Cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid (B-73)
To a solution of (±)-cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid methyl ester (110 mg, 0.21 mmol) in 4 ml methanol was added 50 mg K2CO3, (0.36 mmol, in 2 ml water). The resulting reaction mixture was stirred at room temperature overnight. The methanol was removed under vacuum. 1M HCl was added until the mixture was acidic. Dichloromethane (25 ml) was added. Organic layer was dried with magnesium sulfate. Dichloromethane was removed under vacuum. The residue was purified by HPLC to give 10 mg title compound

reactant | (±)-cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid methyl ester | 0.21 mmol, 110 mg | COC(C=CC=1C=C2[C@@H](C[C@@H](N(C2=CC1)C(C1=CC=C(C=C1)F)=O)C)N(C(CC)=O)C1=CC=C(C=C1)Cl)=O | C30H28ClFN2O4
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | (±)-Cis-3-[4-[(4-chloro-phenyl)-propionyl-amino]-1-(4-fluoro-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-6-yl]-acrylic acid | 10 mg | ClC1=CC=C(C=C1)N([C@@H]1C[C@@H](N(C2=CC=C(C=C12)C=CC(=O)O)C(C1=CC=C(C=C1)F)=O)C)C(CC)=O | C29H26ClFN2O4
